US05866717
O-(2-methoxyethoxymethyl)ethanolamine
N-Benzyloxycarbonyl-O-(2-methoxyethoxymethyl)ethanolamine (6.25 g, 22.0 mmol) was dissolved in ethanol (10 ml) and placed under a blanket of argon. A slurry of 10% palladium on charcoal (1 g) in ethyl acetate was added and hydrogen gas was bubbled through the suspension for 3 hours and then the mixture was placed under hydrogen atmosphere overnight. TLC indicated that some starting material still remained so a further batch ofcatalyst (1 g) was added and hydrogenation was allowed to continue for a further 6 hours, after which all the starting material had been consumed. The catalyst was removed by filtration and the filtrate was used directly in Example 1 h (product volatile).

reactant | N-Benzyloxycarbonyl-O-(2-methoxyethoxymethyl)ethanolamine | 22.0 mmol, 6.25 g | C(C1=CC=CC=C1)OC(=O)NCCOCOCCOC | C14H21NO5
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | O-(2-methoxyethoxymethyl)ethanolamine | COCCOCOCCN | C6H15NO3
